US07176224B2
3-(4-Benzyloxyphenyl)-3-hydroxy-2-(3-trifluoromethylphenoxy)-2-methylpropionic acid ethyl ester (13.4 mmol) in anhydrous CH2Cl2 (100 mL) and pyridine (134 mmol) was cooled to 0° C. and treated with trifluoroacetic anhydride (26.9 mmole). The mixture was stirred for 2 h and gradually warned to ambient temperature. An aqueous solution of 1N HCl (150 mL) was added and the mixture was stirred vigorously. The solution was partitioned and the organic layer was washed twice with water and brine, dried over Na2SO4, and concentrated in vacuo to produce 3-(4-benzyloxyphenyl)-2-methyl-3-(2,2,2-trifluoroacetoxy)-2-(3-trifluoromethylphenoxy)-propionic acid ethyl ester as an oil.

reactant | 3-(4-Benzyloxyphenyl)-3-hydroxy-2-(3-trifluoromethylphenoxy)-2-methylpropionic acid ethyl ester | 13.4 mmol | C(C)OC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OC1=CC(=CC=C1)C(F)(F)F)=O | C26H25F3O5
reactant | pyridine | 134 mmol | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 26.9 mmole | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | HCl | 1N, 150 mL | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-benzyloxyphenyl)-2-methyl-3-(2,2,2-trifluoroacetoxy)-2-(3-trifluoromethylphenoxy)-propionic acid ethyl ester | C(C)OC(C(C(OC(C(F)(F)F)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(OC1=CC(=CC=C1)C(F)(F)F)C)=O | C28H24F6O6
